US08003649B2
Preparation of 4-[4-[2-(dimethylamino)ethoxy]phenyl]-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol
Obtained in 74% yield by an analogous method to Example 860, starting from 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol and 2-(dimethylamino)ethanol.

reactant | 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | OC1=CC=C(C=C1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O | C17H16F3N5O2
reactant | 2-(dimethylamino)ethanol | CN(CCO)C | C4H11NO
product | 4-[4-[2-(dimethylamino)ethoxy]phenyl]-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 74% yield | CN(CCOC1=CC=C(C=C1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O)C | C21H25F3N6O2
